US04853389
Step (7) Preparation of N-[[(1-Methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-2-(methylsulfinyl)-5-pyrimidinesulfonamide
N-[[(1-Methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-2-(methylthio)-5-pyrimidinesulfonamide (4.46 g, 11.29 mmol) was suspended in methylene chloride (250 mL) and m-chloroperoxybenzoic acid (2.44 g, 11.29 mml) was added as a solid. The mixture was then stirred until it became homogeneous. The methylene chloride was removed under reduced pressure and the residue was triturated with hot tert-butyl methyl ether (100 mL). The beige solid was filtered, washed with tert-butyl methyl ether and dried in a vacuum oven at 65° C. for three hours to yield 3.75 g (9.12 mmol, 81%) of pure product as a white solid.

reactant | N-[[(1-Methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-2-(methylthio)-5-pyrimidinesulfonamide | 11.29 mmol, 4.46 g | CC(C)NC(=O)NS(=O)(=O)C=1C(=NC(=NC1)SC)NC1=CC(=CC=C1)C | C16H21N5O3S2
reactant | m-chloroperoxybenzoic acid | 2.44 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | N-[[(1-Methylethyl)amino]carbonyl]-4-[(3-methylphenyl)amino]-2-(methylsulfinyl)-5-pyrimidinesulfonamide | 9.12 mmol, 3.75 g, 81% | CC(C)NC(=O)NS(=O)(=O)C=1C(=NC(=NC1)S(=O)C)NC1=CC(=CC=C1)C | C16H21N5O4S2
